US07884094B2
6-Ethyl-7-hydroxy-3-naphthalen-2-yl-chromen-4-one (d, 0.36 g) was dissolved in dry dimethyl formamide (DMF) (5 mL) and treated with iodomethane (Mel) (0.5 mL) and potassium carbonate (1 g) at room temperature for 2 h. The mixture was diluted with water (50 mL) and the precipitate was collected by filtration, washed with water and dried under vacuum to give 6-ethyl-7-methoxy-3-naphthalen-2-yl-chromen-4-one (e, 0.36 g).

reactant | 6-Ethyl-7-hydroxy-3-naphthalen-2-yl-chromen-4-one | 0.36 g | C(C)C=1C=C2C(C(=COC2=CC1O)C1=CC2=CC=CC=C2C=C1)=O | C21H16O3
reactant | iodomethane | 0.5 mL | IC | CH3I
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 6-ethyl-7-methoxy-3-naphthalen-2-yl-chromen-4-one | 0.36 g | C(C)C=1C=C2C(C(=COC2=CC1OC)C1=CC2=CC=CC=C2C=C1)=O | C22H18O3
